US07432260B2
N-{5-[2-(4-Chloro-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-3-(2-diethylamino-ethylamino)-propionamide [36].
By treatment of 3-bromo-N-{5-[2-(4-chloro-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-propionamide with N′,N′-diethyl-ethane-1,2-diamine. Anal. RP-HPLC: tR=11.8 min (10-70% MeCN, purity>97%). 1H-NMR (DMSO-D6) δ: 1.20 (t, 6H, J=7.0 Hz, CH3), 1.53 (d, 2H, J=6.5 Hz, CH2), 2.52 (s, 6H, CH3), 3.18 (m, 4H, CH2), 3.28 (m, 4H, CH2), 7.13 (d, 1H, J=5.0 Hz, pyrimidinyl-H), 7.30 (m, 2H, Ph-H), 7.81 (m, 2H, Ph-H), 8.51 (d, 1H, J=5.0 Hz, pyrimidinyl-H), 9.82 (brs, 1H, NH).

reactant | 3-bromo-N-{5-[2-(4-chloro-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-propionamide | BrCCC(=O)NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)Cl | C17H15BrClN5OS
reactant | N′,N′-diethyl-ethane-1,2-diamine | C(C)N(CCN)CC | C6H16N2
solvent | MeCN | CC#N | C2H3N
product | N-{5-[2-(4-Chloro-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-3-(2-diethylamino-ethylamino)-propionamide | ClC1=CC=C(C=C1)NC1=NC=CC(=N1)C1=C(N=C(S1)NC(CCNCCN(CC)CC)=O)C | C23H30ClN7OS
